US07772221B2
Step AI (2): 2-Bromo-N-methoxy-N,5-dimethylbenzamide (656 mg, 2.54 mmol) was dissolved in THF (20 mL). The reaction mixture was cooled down to −78° C. and a 1.0M solution of DIBAL-H (7.62 mL, 7.62 mmol) was added. The reaction mixture was stirred at −78° C. for 1 h. The reaction was quenched with acetone and stirred at rt with Rochelle's salt. The mixture was extracted with DCM. The combined organic phases were dried over Na2SO4, filtered and concentrated in vacuum to yield 2-bromo-5-methylbenzaldehyde (500 mg, 99%) as a colorless oil. LC-MS (M+H)+=199.21.

reactant | 2-Bromo-N-methoxy-N,5-dimethylbenzamide | 2.54 mmol, 656 mg | BrC1=C(C(=O)N(C)OC)C=C(C=C1)C | C10H12BrNO2
reactant | DIBAL-H | 7.62 mmol, 7.62 mL | CC(C)C[AlH]CC(C)C
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-bromo-5-methylbenzaldehyde | 500 mg, 99% | BrC1=C(C=O)C=C(C=C1)C | C8H7BrO
